US09193707B2
4. Synthesis of 5-(benzyloxy)-6-methoxy-1,2,3,4-tetrahydroisoquinolin-1-one
Into a 50-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed 5-hydroxy-6-methoxy-1,2,3,4-tetrahydroisoquinolin-1-one (700 mg, 3.62 mmol, 1.00 equiv), Cs2CO3 (2.36 g, 7.22 mmol, 2.00 equiv), ethanol (20 mL) and (bromomethyl)benzene (740 mg, 4.35 mmol, 1.20 equiv). The resulting solution was heated to reflux for 1 hr. The solids were filtered out. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:1). This resulted in 1 g (97%) of 5-(benzyloxy)-6-methoxy-1,2,3,4-tetrahydroisoquinolin-1-one as a gray solid. 1H NMR (300 MHz, DMSO-d6) δ: 2.70-2.75 (t, 2H), 3.19-3.23 (t, 2H), 3.90 (s, 3H), 4.95 (s, 2H), 7.05-7.08 (m, 1H), 7.33-7.42 (m, 5H), 7.62-7.64 (m, 1H), 7.70 (S, 1H); MS (ESI) m/z 284 ([M+H]+).

reactant | 5-hydroxy-6-methoxy-1,2,3,4-tetrahydroisoquinolin-1-one | 3.62 mmol, 700 mg, 1.00 equiv | OC1=C2CCNC(C2=CC=C1OC)=O | C10H11NO3
reactant | Cs2CO3 | 7.22 mmol, 2.36 g, 2.00 equiv | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | (bromomethyl)benzene | 4.35 mmol, 740 mg, 1.20 equiv | BrCC1=CC=CC=C1 | C7H7Br
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 5-(benzyloxy)-6-methoxy-1,2,3,4-tetrahydroisoquinolin-1-one | C(C1=CC=CC=C1)OC1=C2CCNC(C2=CC=C1OC)=O | C17H17NO3
